US08604023B2
di-tert-Butyl 2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate
di-tert-butyl 6-Bromo-2-oxo-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate (1.48 g), bis(pinacolato)diboron (1.089 g, 1.2 eq), and potassium acetate (526 mg, 1.5 eq) were put in a flask and dissolved in dioxane (36 mL). The mixture was subjected to vacuum until bubbling occurred, and nitrogen gas was then introduced. The degassing procedure was repeated twice, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II)dichloromethane adduct (129 mg, 0.05 eq) was added. The reaction was heated to 80° C. for 3 h. The mixture was then cooled, then diluted with EtOAc, and washed with water, then brine, then dried over sodium sulfate, and then concentrated. The product was purified by chromatography delivering product (1.30 g, 79% yield). 1H-NMR (300 MHz, CDCl3) δ 8.60 (s, 1H), 8.40 (s, 1H), 3.68 (s, 1H), 1.65 (s, 21H), 1.45 (d, 6H), 1.32 (s, 16H), 1.25 (s, 12H).

reactant | di-tert-butyl 6-Bromo-2-oxo-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate | 1.48 g | BrC=1C=C2C(=NC1)N(C(N2C(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C | C16H20BrN3O5
reactant | bis(pinacolato)diboron | 1.089 g, 1.2 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 526 mg, 1.5 eq | C(C)(=O)[O-].[K+]
solvent | dioxane | 36 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | di-tert-Butyl 2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate | 1.30 g, 79% yield | O=C1N(C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H32BN3O7
